US05750531
Synthesis of 6-methyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.61 ml, 5.48 mmol) was added to a mixture solution of 6-methyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.95 g, 3.65 mmol) and dimethylformamide(10 ml), 0.7 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 5.48 mmol, 0.61 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 6-methyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 3.65 mmol, 0.95 g | CC1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C14H14ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-methyl-2-(N-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.7 g, Yield: 52.3% | Cl.CC1=CC(=NC(=N1)N(C)C1=CC=CC=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C21H22N4.ClH/c1-16-14-20(25-13-12-17-8-6-7-9-18(17)15-25)23-21(22-16)24(2)19-10-4-3-5-11-19;/h3-11,14H,12-13,15H2,1-2H3;1H
